US05453524
Diethyl (E,E)-1-carboethoxy-4,8,12-trimethyl-3,7,11-tridecatrienylphosphonate
0.59 g of 55% sodium hydride was suspended in 5 ml of N,N-dimethylformamide in a nitrogen atmosphere, followed by the dropwise addition thereto of 5 ml of a solution of 3.0 g of ethyl diethylphosphonoacetate in N,N-dimethylformamide at room temperature. The obtained mixture was stirred for 10 minutes. 5 ml of a solution of 4.5 g of farnesyl bromide in N,N-dimethylformamide was added to the resulting mixture at room temperature. The obtained mixture was further stirred for one hour, followed by the addition thereto of ice-water. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled in a vacuum to remove the solvent. The obtained crude product was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to give 2.6 g of the title compound as a colorless oil.

reactant | sodium hydride | 0.59 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 3.0 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | farnesyl bromide | 4.5 g | C(C=C(C)CCC=C(C)CCC=C(C)C)Br | C15H25Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Diethyl (E,E)-1-carboethoxy-4,8,12-trimethyl-3,7,11-tridecatrienylphosphonate | 2.6 g | C(=O)(OCC)C(C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(OCC)(OCC)=O | C23H41O5P
